US03960843
p-Methoxybenzyl 3-methyl-7β-phenoxyacetamidoceph-3-em-4-carboxylate
3-Methyl-7β-phenoxyacetamidoceph-3-em-4-carboxylic acid (3.48 g., 10 m. moles) was dissolved in dichloromethane (50 ml) with p-methoxy-benzylamine (3.43 g., 25 m. moles) together with anhydrous sodium sulphate (5 g) and potassium carbonate (6.7 g). Nitrosyl chloride (12.5 ml, 10% solution in dichloromethane, 25 m. moles) was added over about 10 minutes at -5° with vigorous stirring. Some partial gel formation occurred but this dissolved while the mixture was stirred for a further 50 minutes while warming towards ambient. The reaction mixture was worked up as described in Example 7 and the organic residue crystallised from hot isopropanol (25 ml) to give the title compound (2.38 g., 50.6% yield based on the input acid) m.pt. 151° - 152°.

reactant | 3-Methyl-7β-phenoxyacetamidoceph-3-em-4-carboxylic acid | 3.48 g | CC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(COC2=CC=CC=C2)=O)=O | C16H16N2O5S
reactant | p-methoxy-benzylamine | 3.43 g | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | sodium sulphate | 5 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | potassium carbonate | 6.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | Nitrosyl chloride | 12.5 ml | N(=O)Cl | ClNO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | p-Methoxybenzyl 3-methyl-7β-phenoxyacetamidoceph-3-em-4-carboxylate | 50.6% yield | CC=1CS[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)OC)C([C@H]2NC(COC2=CC=CC=C2)=O)=O | C24H24N2O6S
